US07625888B2
Step C: tert-Butyl 3-(trifluoromethyl)-5,6-dihydro[1,2,4]triazolo[4,3-a]pyrazine-7(8H)-carboxylate
The title compound was prepared from 3-(trifluoromethyl)-5,6,7,8-tetrahydro-1,2,4-triazolo[4,3-a]pyrazine and di-tert-butyl dicarbonate by a procedure analogous to that used for Intermediate 5, Step D. LC-MS 293 (M+1).

reactant | 3-(trifluoromethyl)-5,6,7,8-tetrahydro-1,2,4-triazolo[4,3-a]pyrazine | FC(C1=NN=C2N1CCNC2)(F)F | C6H7F3N4
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | tert-Butyl 3-(trifluoromethyl)-5,6-dihydro[1,2,4]triazolo[4,3-a]pyrazine-7(8H)-carboxylate | FC(C1=NN=C2N1CCN(C2)C(=O)OC(C)(C)C)(F)F | C11H15F3N4O2
